US04436748
To a mixture of 44 g of 6,7-dichloro-2,3-dihydro-3-hydroxy-5-methoxy-2-n-propylbenzo[b]thiophene in 275 ml of glacial acetic acid is added 65 ml of boron triluoride etherate and the mixture is warmed on a steam bath unitl it becomes clear. The solution is stired for 10 mins and then quenched with a mixture of 500 g of ice and 200 ml of a 10% sodium hydroxide solution. The mixture is neutralized with 50% sodium hydroxide solution and then extracted with two 300-ml portions of ethyl ether. The organic layers are combined, washed with 100 ml of a saturated sodium bicarbonate solution, 100 ml of water, dried over anhydrous magnesium sulfate, filtered and the solvent is removed to give an oil. Chromatography of the oil on an alumina column using 9:1-hexane:ethyl ether as eluting solvent gives 31 g of 6,7-dichloro-5-methoxy-2-n-propylbenzo[b]thiophene as an oil.

reactant | 6,7-dichloro-2,3-dihydro-3-hydroxy-5-methoxy-2-n-propylbenzo[b]thiophene | 44 g | ClC=1C(=CC2=C(SC(C2O)CCC)C1Cl)OC | C12H14Cl2O2S
reactant | boron | 65 ml | [B] | B
solvent | acetic acid | 275 ml | C(C)(=O)O | C2H4O2
product | 6,7-dichloro-5-methoxy-2-n-propylbenzo[b]thiophene | 31 g | ClC=1C(=CC2=C(SC(=C2)CCC)C1Cl)OC | C12H12Cl2OS
